US06599925B2
A mixture of ethyl 2-{[6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetate (0.743 g, 1.73 mmol) and 1N sodium hydroxide (2.7 mL, 2.7 mmol) in ethanol (15 mL) was stirred at room temperature for 1 hour, 10 minutes. The mixture was diluted with excess water and washed with diethyl ether. The aqueous phase was acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic extract was washed with water and brine. It was dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue crystallized from methanol and dried for 16 hours at 52° C. to afford 2-{[6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetic acid (0.343 g, 49%), mp 130-132° C. Mass spectrum (−APCl, [M−H]−) m/z 401; 1HNMR (400 MHz, DMSO-d6): δ13.0-13.1 (br s, 1H), 8.35 (d, 1H, J=1.5 Hz), 8.0-8.05 (m, 2H), 7.95 (d, 1H, J=8.8 Hz), 7.8 (dd, 1H, J=8.4 Hz and 1.9 Hz), 7.7 (m, 2H), 7.35-7.45 (m, 3H), 7.3 (dd, 1H, J=8.9 Hz and 2.5 Hz), 4.85 (s, 2H), 2.7 (t, 2H, J=7.4 Hz), 1.5-1.55 (m, 2H), 1.1-1.15 (m, 2H), and 0.7 ppm (t, 3H, J=7.4 Hz). Elemental Analysis for C25H22O5: Calculated: C, 74.61;H, 5.51; N, 0.00. Found: C, 74.29;H, 5.51; N, 0.05.

reactant | ethyl 2-{[6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetate | 1.73 mmol, 0.743 g | C(CCCC)(=O)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)OCC(=O)OCC | C27H26O5
reactant | sodium hydroxide | 2.7 mmol, 1N, 2.7 mL | [OH-].[Na+]
solvent | ethanol | 15 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-{[6-(3-pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetic acid | 0.343 g, 49% | C(CCCC)(=O)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)OCC(=O)O | C25H22O5
